US08076517B2
(R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-but-3-enyl)-hydrazide (3.05 g, 10.5 mmol) was dissolved in 100 mL methanol. Palladium on charcoal (1%, 240 mg) was carefully added, and the mixture was shaken on a Parr hydrogenator for 2.5 hours at a starting pressure of 55 psi. Decrease in pressure was monitored as a measure of the reaction progress; after 1.5 hours, hydrogen uptake ceased. The mixture was filtered through a pad of Celite, and solvent was removed in vacuo. Analysis by TLC using several solvents was largely unsuccessful in distinguishing between the two hydrazide spots, although 3:1 hexanes:ethyl acetate (Rf=0.28) was marginally successful. The crude product was crystallized twice from 2:1 pentane:hexanes to provide >0.6 g of (R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-butyl)-hydrazide. 1H NMR (400 MHz, CDCl3) δ 7.05 (t, 1H), 6.79 (d, 1H), 6.76 (d, 1H), 3.7 (s, 3H), 2.37 (m, 1H), 2.12 (s, 3H), 1.7-1.1 (m, 4H), 0.90 (s, 9H), 0.82 (t, 3H).

reactant | (R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-but-3-enyl)-hydrazide | 10.5 mmol, 3.05 g | C(C)(C)(C)[C@@H](CC=C)NNC(C1=C(C(=CC=C1)OC)C)=O | C17H26N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Palladium on charcoal | 240 mg | [Pd] | Pd
product | (R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-butyl)-hydrazide | >0.6 g | C(C)(C)(C)[C@@H](CCC)NNC(C1=C(C(=CC=C1)OC)C)=O | C17H28N2O2
